US04128560
Again in the same manner but replacing 6-methyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester with an equivalent amount of 6-propyl-1,4-dioxaspiro[4.5]decane6-propionic acid methyl ester, described in Example 7, 2-oxo-1-propylcyclohexaneacetic acid, νmaxCHCl3 1775, 1710 cm-1, is obtained via the respective intermediates, α,α-diphenyl-6-propyl-1,6-dioxaspiro[4.5]decane-6-propanol, νmaxCHCl3 3620, 3480, 1175, 1130, 1110, 1062 cm-1, and 2-(3,3-diphenylallyl)-2-propylcyclohexanone, nmr (CDCl3) δ 0.85 (m, 3H), 6.0 (t, 1H), 7.3 (m, 10H).

reactant | 6-methyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester | COC(CCC1(C2(OCCO2)CCCC1)C)=O | C13H22O4
reactant | 6-propyl-1,4-dioxaspiro[4.5]decane6-propionic acid methyl ester | COC(CCC1(C2(OCCO2)CCCC1)CCC)=O | C15H26O4
reactant | 2-oxo-1-propylcyclohexaneacetic acid | O=C1C(CCCC1)(CC(=O)O)CCC | C11H18O3
product | 2-(3,3-diphenylallyl)-2-propylcyclohexanone | C1(=CC=CC=C1)C(=CCC1(C(CCCC1)=O)CCC)C1=CC=CC=C1 | C24H28O
